US07709473B2
N-[2-(6-tert-Butyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-8-ylamino)-ethyl]-benzenesulfonamide
A solution of 50 mg of 8-(2-amino-ethylamino)-6-tert-butyl-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one, 97 mg of phenylsulfonyl chloride and 61 mg of diisopropylethylamine in DMF (1.0 mL) was stirred at ambient temperature for 16 h. The reaction mixture was diluted with EtOAc and washed with water and then sat. sodium chloride solution. The organic layer was dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography to provide the title compound as a white solid. MS (M+H+)=391.4.

reactant | 8-(2-amino-ethylamino)-6-tert-butyl-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | 50 mg | NCCNC=1C=2N(C=C(N1)C(C)(C)C)C(NN2)=O | C11H18N6O
reactant | phenylsulfonyl chloride | 97 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | diisopropylethylamine | 61 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-(6-tert-Butyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-8-ylamino)-ethyl]-benzenesulfonamide | C(C)(C)(C)C=1N=C(C=2N(C1)C(NN2)=O)NCCNS(=O)(=O)C2=CC=CC=C2 | C17H22N6O3S
